US04689349
Ethyl 5-ethoxyheptanoate
A mixture of 400 g 5-hydroxyheptanoic acid and 6-ethyltetrahydro-2H-pyran-2-one (400 g) is added to the reaction vessel containing ethanol (4000 ml) and triethylorthoformate (4000 ml). Perchloric acid (160 ml) is slowly added. The mixture is stirred at room temperature for 4 hours, after which time sodium hydroxide pellets (230 g) are added to stop the reaction. Once the sulfuric acid has been neutralized the ethanol and triethylorthoformate are removed under vacuum. The residue is partitioned between ether (2000 ml) and water (1000 ml). The organic phase is separated and the aqueous layer extracted with ether (3×500 ml). The organic layers are combined and dried over anhydrous sodium sulfate. The remaining solvent is removed under vacuum leaving a clear orange oil. The crude product is fractionally distilled under reduced pressure leaving a clear, colorless oil (302 g, 1.49 moles), BP 120° C./10 cm Hg.

reactant | 5-hydroxyheptanoic acid | 400 g | OC(CCCC(=O)O)CC | C7H14O3
reactant | 6-ethyltetrahydro-2H-pyran-2-one | 400 g | C(C)C1CCCC(O1)=O | C7H12O2
reactant | triethylorthoformate | 4000 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | Perchloric acid | 160 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 4000 ml | C(C)O | C2H6O
product | Ethyl 5-ethoxyheptanoate | 1.49 moles, 302 g | C(C)OC(CCCC(=O)OCC)CC | C11H22O3
